Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
Mr. ___ is a ___ y/o M who presents to ___ for recurrent 
epigastric abdominal pain.

Pt seen in ED on ___ with similar pain that started a few days 
prior, found to have acute pancreatitis with lipase 600.  
Unclear trigger.  No cholelithiasis noted.  ___ wnl.  He was 
admitted to ED obs and treated with IVF's, cautious advancement 
of diet and
pain meds with significant improvement.

However, after discharge, he's had progressive recurrence of 
pain, nausea/vomiting, and bloating.  Also feels constipated as 
he hasn't had BM in 4 days.  Febrile to 100.8.  No SOB, cough, 
chest pain, diarrhea.  Pt reports being unable to sleep due to 
the pain.  Thinks he also has a headache due to uncomfortable 
positioning.
 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of autoimmune diseases or GI issues.
 
Physical Exam:
ADMISSION:
VITALS: 98.9PO 136 / 82 72 18 95 RA  
GENERAL: well-appearing, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, mildly TTP in epigastric region, non-distended,
normoactive BS
GU: no foley
EXT: wwp, no edema
SKIN: no lesions, no rashes
NEURO: AOx3, moving all extremities purposefully
PSYCH: normal mood and affect

DISCHARGE:
VITALS: ___ Temp: 99.0 PO BP: 139/88 HR: 71 RR: 18 O2
sat: 98% O2 delivery: RA 
GENERAL: well-appearing, laying in bed, in NAD
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
GI: Soft, nontender to palpation, non-distended, normoactive BS
GU: no foley
SKIN: no lesions, no rashes
NEURO: AOx3, moving all extremities purposefully
PSYCH: normal mood and affect

 
Pertinent Results:
ADMISSION:
___ 02:30AM BLOOD WBC-7.9 RBC-4.12* Hgb-12.3* Hct-40.0 
MCV-97 MCH-29.9 MCHC-30.8* RDW-12.9 RDWSD-46.2
___ 02:43AM BLOOD Lactate-1.1
___ 02:30AM BLOOD Creat-0.7
___ 10:47AM BLOOD Lipase-64*
___ 10:47AM BLOOD Albumin-3.4* Calcium-8.8 Phos-1.8* Mg-2.1

DISCHARGE:
___ 05:08AM BLOOD WBC-10.1* RBC-3.87* Hgb-11.2* Hct-34.3* 
MCV-89 MCH-28.9 MCHC-32.7 RDW-12.5 RDWSD-40.7 Plt ___
___ 05:08AM BLOOD Glucose-94 UreaN-5* Creat-0.7 Na-144 
K-4.1 Cl-103 HCO3-29 AnGap-12
___ 05:08AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.8

IMAGING:

CT ABDOMEN/PELVIS ___:
1. Acute interstitial edematous pancreatitis without evidence of 
drainable
fluid collection or pancreatic necrosis.  The superior 
mesenteric and splenic
veins remain widely patent.
2. A 1.6 x 1.1 cm hypodense mass in the left adrenal could 
represent adrenal
adenoma, however is incompletely characterized on this contrast 
enhanced exam.
3. Horseshoe kidney with 1.2 cm indeterminate renal lesion in 
the right upper
pole.
4. Hypodense area in segment four of the liver, potentially 
focal fat.
5. Bilateral small pleural effusions, left greater than right 
with associated
compressive atelectasis.
 
RECOMMENDATION(S):  A non urgent follow-up left adrenal MRI is 
recommended to
further characterize the left adrenal mass.  Further 
characterization of the
presumed hepatic focal fat and right renal lesion can be 
performed at this
time.
 
Brief Hospital Course:
Mr. ___ is a ___ yo M with no past medical history who 
presented to hospital for abdominal pain and fevers found to 
have pancreatitis. He was initially treated in ED obs for this 
however after discharge home from ED obs he had recurrent 
symptoms and re-presented one day after discharge. At that time 
he was admitted to inpatient medicine.

Upon admission, he was treated with bowel rest, IV fluids and 
pain medications. Diet advanced as tolerated. He was given bowel 
regimen for constipation likely ___ oxycodone. He was discharged 
to home on ___ when symptoms improved.

Note he had CT abdomen that showed left adrenal incidentaloma 
that will require outpatient follow up (radiology suggests MRI 
for better visualization).
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*14 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*10 
Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 by mouth daily Disp #*7 Tablet 
Refills:*0 
5.  Naproxen 500 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for pancreatitis, an 
inflammatory disease of your pancreas. This was treated with 
bowel rest, IV fluids, and slow re-introduction of normal diet.

After discharge, please continue to eat bland foods for the next 
1 week until you feel like you are ready to advance back to your 
usual diet. Please call your primary care doctor to schedule an 
appointment within ___ weeks to follow up.

It was a pleasure taking care of you!

Sincerely, your ___ team
 
Followup Instructions:
___